US08138197B2
1-Cyclopropyl-4-(tetrazol-5-yl)-1H-indole-6-carboxylic acid
In a 500-mL egg plant-type flask, aqueous 5 N sodium hydroxide solution (11 mL, 55 mmol) was added to an MeOH solution (70 mL) of ethyl 1-cyclopropyl-4-(tetrazol-5-yl)-1H-indole-6-carboxylate (5.40 g), and stirred at 60° C. for 8 hours. The reaction solution was left cooled, aqueous 5 N hydrochloric acid solution (12 mL) was added thereto, and the formed precipitate was taken out through filtration. This was washed with water and dried under reduced pressure to obtain the title compound as a colorless solid.

reactant | sodium hydroxide | 55 mmol, 5 N, 11 mL | [OH-].[Na+]
reactant | ethyl 1-cyclopropyl-4-(tetrazol-5-yl)-1H-indole-6-carboxylate | 5.40 g | C1(CC1)N1C=CC2=C(C=C(C=C12)C(=O)OCC)C1=NN=NN1 | C15H15N5O2
reactant | hydrochloric acid | 5 N, 12 mL | Cl | ClH
solvent | MeOH | 70 mL | CO | CH4O
product | 1-Cyclopropyl-4-(tetrazol-5-yl)-1H-indole-6-carboxylic acid | C1(CC1)N1C=CC2=C(C=C(C=C12)C(=O)O)C1=NN=NN1 | C13H11N5O2
